US06388088B1
A light brown suspension of 4-bromo-1-methanesulfonyl-2-nitro-benzene (8.65 g, 30.9 mmol) in methanol (300 mL, not completely dissolved in methanol even at hot condition) was treated sequentially with ammonium chloride (24.8 g, 463.5 mmol), zinc dust (20.2 g, 309 mmol), and water (100 mL). Initially, the reaction was exothermic, and the brown color disappeared. The reaction mixture was stirred for 1 h at 25° C. The reaction mixture was then filtered, and the residue was washed with methanol (50 mL) and ethyl acetate (100 mL). The filtrate was concentrated in vacuo, and the organic compound was extracted into ethyl acetate (3×100 mL). The combined organic extracts were washed with a saturated aqueous sodium chloride solution (1×200 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 8/1 to 6/1 to 4/1 hexanes/ethyl acetate) afforded 5-bromo-2-methanesulfonyl-phenylamine (5.7 g, 74%) as a white solid: mp 107-109° C.; EI-HRMS m/e calcd for C7H8BrNO2S (M+) 248.9459, found 248.9451.

reactant | 4-bromo-1-methanesulfonyl-2-nitro-benzene | 30.9 mmol, 8.65 g | BrC1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C7H6BrNO4S
reactant | ammonium chloride | 463.5 mmol, 24.8 g | [Cl-].[NH4+]
reactant | water | 100 mL | O | H2O
solvent | methanol | CO | CH4O
catalyst | zinc | 309 mmol, 20.2 g | [Zn] | Zn
product | 5-bromo-2-methanesulfonyl-phenylamine | 5.7 g, 74% | BrC=1C=CC(=C(C1)N)S(=O)(=O)C | C7H8BrNO2S
